US09029545B2
N-{6-Methyl-2-(1H-pyrazol-4-yl)-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide
To a mixture of N-{3-(3-bromophenyl)-6-methyl-2-[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-pyrazol-4-yl]thieno[2,3-b]pyridin-4-yl}-N-({[2-(trimethylsilyl)ethyl]oxy}methyl)benzenesulfonamide (Description 51) (485 mg, 0.617 mmol), BINAP (23.05 mg, 0.037 mmol), Pd2(dba)3 (11.30 mg, 0.012 mmol) and sodium tert-butoxide (178 mg, 1.851 mmol) in toluene (5 mL) was added pyrrolidine (0.102 mL, 1.234 mmol) and the mixture was heated at 120° C. for ca. 2 h. After cooling to RT, the mixture was passed through celite, washed with DCM (ca. 20 mL×5) and the filtrate concentrated. The residue was purified by normal phase chromatography, eluting with 0-50% ethyl acetate in cyclohexane to give a residue which was subsequently taken-up in DCM (5 mL) and TFA (0.475 mL, 6.17 mmol) added. The mixture was stirred at RT overnight (ca. 24 h). Extra TFA (0.475 mL, 6.17 mmol) was added and stirring continued at RT for ca. 4 h. Extra TFA (0.475 mL, 6.17 mmol) was added and stirring continued at RT overnight (ca. 20 h). The reaction mixture was then passed through SCX cartridge, eluting with MeOH (150 mL), then with 2M NH3 in MeOH (200 mL). The basic methanolic solution was concentrated and the residue purified by normal phase chromatography, eluting with 0-100% ethyl acetate in cyclohexane and then further purified by MDAP (acidic conditions) and then by MDAP (basic conditions), to afford the title compound (113 mg). LCMS (A) m/z: 516 [M+1]+, Rt 1.28 min (acidic).

reactant | N-{3-(3-bromophenyl)-6-methyl-2-[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-pyrazol-4-yl]thieno[2,3-b]pyridin-4-yl}-N-({[2-(trimethylsilyl)ethyl]oxy}methyl)benzenesulfonamide | 0.617 mmol, 485 mg | BrC=1C=C(C=CC1)C1=C(SC2=NC(=CC(=C21)N(S(=O)(=O)C2=CC=CC=C2)COCC[Si](C)(C)C)C)C=2C=NN(C2)COCC[Si](C)(C)C | C35H45BrN4O4S2Si2
reactant | BINAP | 0.037 mmol, 23.05 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 1.851 mmol, 178 mg | CC(C)([O-])C.[Na+]
reactant | pyrrolidine | 1.234 mmol, 0.102 mL | N1CCCC1 | C4H9N
reactant | TFA | 6.17 mmol, 0.475 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 6.17 mmol, 0.475 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 6.17 mmol, 0.475 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.012 mmol, 11.30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-{6-Methyl-2-(1H-pyrazol-4-yl)-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide | 113 mg | CC1=CC(=C2C(=N1)SC(=C2C2=CC(=CC=C2)N2CCCC2)C=2C=NNC2)NS(=O)(=O)C2=CC=CC=C2 | C27H25N5O2S2
